US04563211
4-Methoxy-6-(methylselenylmethyl)-2-pyrimidinamine
To a stirring solution of potassium hydroxide (15.6 mmol) in H2O (77.5 mmol) and 50 ml of methanol was added methyl[4-methoxy-6-(methylselenylmethyl)pyrimidin-2-yl]carbamate (5.2 mmol). The solution was heated to the reflux point for 3 hours, then cooled to 0° C. The solution was neutralized to pH7 with concentrated HCl and then the solvent was removed under reduced pressure. The resulting residue was washed with THF to afford 1.3 g, m.p. 88°-91° C.; NMR (200 MHz, CDCl3): δ 2.01 (s, 3H); 3.48 (s, 2H); 3.85 (s, 3H); 5.1 (br. s, 2H); 5.99 (s, 1H).

reactant | potassium hydroxide | 15.6 mmol | [OH-].[K+]
reactant | H2O | 77.5 mmol | O | H2O
reactant | methyl[4-methoxy-6-(methylselenylmethyl)pyrimidin-2-yl]carbamate | 5.2 mmol | COC(NC1=NC(=CC(=N1)OC)C([SeH])C)=O | C9H13N3O3Se
reactant | HCl | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 4-Methoxy-6-(methylselenylmethyl)-2-pyrimidinamine | COC1=NC(=NC(=C1)C([SeH])C)N | C7H11N3OSe
